### PR TITLE
[stdlib] some facts for NoDup

### PR DESCRIPTION
**Pull request by haansn08**
Re-opening of https://github.com/coq/coq/pull/16563 because GitHub does not allow me to rename the source branch for a PR.

This PR adds following lemmata for lists:
* ~`Lemma in_app_comm: forall l l' (a:A), In a (l++l') -> In a (l'++l).`~
* ~`Lemma NoDup_cons_remove l a : NoDup (a::l) -> NoDup l.`~
* ~`Lemma NoDup_app_remove1 l l': NoDup (l++l') -> NoDup l'.`~
* ~`Lemma NoDup_app_remove2 l l': NoDup (l++l') -> NoDup l.`~
* ~`Lemma NoDup_app_comm l l': NoDup (l++l') -> NoDup (l'++l).`~

**EDIT** discussions and merging with #16589 lead to:
* `Lemma NoDup_app_remove_l l l': NoDup (l++l') -> NoDup l'.`
* `Lemma NoDup_app_remove_r l l': NoDup (l++l') -> NoDup l.`
* `Lemma not_NoDup (l: list A): ~ NoDup l -> exists a l1 l2 l3, l = l1++a::l2++a::l3.`

### CODE REVIEW

File: theories/Lists/List.v [hunk 1]
```diff
@@ -297,6 +297,11 @@ Section Facts.
     split; auto using in_app_or, in_or_app.
   Qed.
 
+  Lemma in_app_comm: forall l l' (a:A), In a (l++l') -> In a (l'++l).
+  Proof.
+    intros l l' a H. apply in_or_app, or_comm, in_app_or. exact H.
+  Qed.
```
Comment (Alizter) [inline theories/Lists/List.v:303]:
```suggestion
  Lemma in_app_comm l l' (a:A) : In a (l++l') -> In a (l'++l).
  Proof.
    intro H. apply in_or_app, or_comm, in_app_or. exact H.
  Qed.
```

File: theories/Lists/List.v [hunk 2]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
     + now constructor.
   Qed.
 
+  Lemma NoDup_app_remove1 l l': NoDup (l++l') -> NoDup l'.
```
Comment (Alizter) [inline theories/Lists/List.v:2376]:
```suggestion
  Lemma NoDup_app_remove1 l l' : NoDup (l++l') -> NoDup l'.
```

File: theories/Lists/List.v [hunk 3]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  Proof.
+  induction l; intro H.
+  + exact H.
+  + eapply IHl, NoDup_cons_remove. exact H.
+  Qed.
+
+  Lemma NoDup_app_remove2 l l': NoDup (l++l') -> NoDup l.
```
Comment (Alizter) [inline theories/Lists/List.v:2383]:
```suggestion
  Lemma NoDup_app_remove2 l l' : NoDup (l++l') -> NoDup l.
```

File: theories/Sorting/Permutation.v [hunk 4]
```diff
@@ -528,6 +528,9 @@ Proof.
   repeat red; eauto using Permutation_NoDup.
 Qed.
 
+Lemma NoDup_app_comm l l': NoDup (l++l') -> NoDup (l'++l).
```
Comment (Alizter) [inline theories/Sorting/Permutation.v:531]:
```suggestion
Lemma NoDup_app_comm l l' : NoDup (l++l') -> NoDup (l'++l).
```

**Comment by olaure01** [comment]
> @olaure01 Thank you, I didn`t know about the NoDup theorems in Permutation.v. This makes this proof very easy and maybe not a good candidate for inclusion in the stdlib. Maybe there is still some merit to include the other lemmata?

Similarly, `in_app_comm` is also a direct consequence of results about permutations:
```coq
Require Import List Permutation.

Lemma in_app_comm A l l' (a:A) : In a (l++l') -> In a (l'++l).
Proof. apply Permutation_in, Permutation_app_swap. Qed.
```
Since there are many other possible direct consequences of applying a permutation to `In` or `NoDup`, it is not clear to me if we should add them to stdlib.
Lemma `Lemma NoDup_cons_remove l a : NoDup (a::l) -> NoDup l.` is an immediate application of `NoDup_remove_1`, not clear to me either it is important to have it as a dedicated statement.
The last two `NoDup_app_remove1` and `NoDup_app_remove2` look more interesting to me.

File: theories/Lists/List.v [hunk 5]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
     + now constructor.
   Qed.
 
+  Lemma NoDup_app_remove1 l l' : NoDup (l++l') -> NoDup l'.
```
Comment (olaure01) [inline theories/Lists/List.v:2376]:
```suggestion
  Lemma NoDup_app_remove_l l l' : NoDup (l++l') -> NoDup l'.
```

File: theories/Lists/List.v [hunk 6]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  Proof.
+  induction l; intro H.
+  + exact H.
```
Comment (olaure01) [inline theories/Lists/List.v:2379]:
```suggestion
  - exact H.
```

File: theories/Lists/List.v [hunk 7]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  + eapply IHl, NoDup_cons_remove. exact H.
```
Comment (olaure01) [inline theories/Lists/List.v:2380]:
```suggestion
  - apply IHl, (NoDup_remove_1 nil _ _ H).
```

File: theories/Lists/List.v [hunk 8]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  Qed.
+
+  Lemma NoDup_app_remove2 l l' : NoDup (l++l') -> NoDup l.
```
Comment (olaure01) [inline theories/Lists/List.v:2383]:
```suggestion
  Lemma NoDup_app_remove_r l l' : NoDup (l++l') -> NoDup l.
```

File: theories/Lists/List.v [hunk 9]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  Proof.
+  induction l'; intro H.
+  - now rewrite app_nil_r in H.
+  - apply IHl'. eapply NoDup_remove_1. exact H.
```
Comment (olaure01) [inline theories/Lists/List.v:2387]:
```suggestion
  - apply IHl', (NoDup_remove_1 _ _ _ H).
```

File: theories/Lists/List.v [hunk 10]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
     + now constructor.
   Qed.
 
+  Lemma NoDup_app_remove1 l l' : NoDup (l++l') -> NoDup l'.
+  Proof.
+  induction l; intro H.
```
Comment (olaure01) [inline theories/Lists/List.v:2378]:
```suggestion
  induction l as [|a l IHl]; intro H.
```
for name mangling

File: theories/Lists/List.v [hunk 11]
```diff
@@ -2363,6 +2373,20 @@ Section ReDun.
...
+  + exact H.
+  + eapply IHl, NoDup_cons_remove. exact H.
+  Qed.
+
+  Lemma NoDup_app_remove2 l l' : NoDup (l++l') -> NoDup l.
+  Proof.
+  induction l'; intro H.
```
Comment (olaure01) [inline theories/Lists/List.v:2385]:
```suggestion
  induction l' as [|a l' IHl']; intro H.
```
for name mangling

**Review by olaure01 — CHANGES_REQUESTED** [review]

**Comment by haansn08** [comment]
@olaure01 I have now removed `in_app_comm` and `NoDup_app_comm`.

File: theories/Lists/List.v [hunk 12]
```diff
@@ -2350,6 +2350,11 @@ Section ReDun.
   intros. now apply NoDup_remove with a.
   Qed.
 
+  Lemma NoDup_cons_remove l a : NoDup (a::l) -> NoDup l.
+  Proof.
+  apply (NoDup_remove_1 []).
```
Comment (olaure01) [inline theories/Lists/List.v:2355]:
```suggestion
  now intro H; inversion H.
```
avoids relying on multiple intermediary results.

Comment (haansn08) [reply theories/Lists/List.v]: Since `inversion` seems to cover this lemma, I have now removed it.

**Comment by olaure01** [comment]
@haansn08 the content looks good to me, could you squash your commits and add a changelog?

**Comment by haansn08** [comment]
@olaure01 Done. Thank you for your help :)

**Review by olaure01 — APPROVED** [review]

**Comment by olaure01** [comment]
If we get [full green CI](https://github.com/coq/coq/pull/16600#issuecomment-1265773392) and there is no more comments, I will merge by Thursday.

**Comment by Zimmi48** [comment]
Re-running since the last CI run had a lot of errors for unrelated reasons:

@coqbot run CI now

**Comment by olaure01** [comment]
remaining CI failures look unrelated
@coqbot merge now
